US07541473B2
1.2. Preparation of (1-(2-pyridylmethyl)indenyl)chromium dichloride
A solution of 52.7 g of the above mixture of 2-(1H-inden-3-ylmethyl)pyridine and 2-[(E)-2,3-dihydro-1H-inden-1-ylidenemethyl]pyridine in a molar ratio of 10:9 in 550 ml of tetrahydrofuran was cooled to −100° C. 80.5 ml of a 15% strength n-butyllithium solution in hexane (0.1288 mol) were then slowly added dropwise. After the addition was complete, the reaction mixture was stirred at −100° C. for a further 45 minutes. The mixture was subsequently allowed to warm to room temperature. After stirring for a further 2 hours, the solution was cooled to −60° C. and 49 g (0.1288 mol) of chromium trichloride tris(tetrahydrofuran) were added while stirring. The mixture was allowed to warm slowly to room temperature and was subsequently stirred for a further 10 hours at room temperature. The reaction mixture was then refluxed for 20 minutes and subsequently cooled to room temperature. The solid which had precipitated was filtered off and washed with hot tetrahydrofuran. The solid was subsequently washed with diethyl ether and dried under reduced pressure. This gave 24.9 g of (1-(2-pyridylmethyl)indenyl)chromium dichloride (59%).

reactant | 2-(1H-inden-3-ylmethyl)pyridine | C1C=C(C2=CC=CC=C12)CC1=NC=CC=C1 | C15H13N
reactant | 2-[(E)-2,3-dihydro-1H-inden-1-ylidenemethyl]pyridine | C/1(\CCC2=CC=CC=C12)=C\C1=NC=CC=C1 | C15H13N
reactant | n-butyllithium | C(CCC)[Li]
reactant | hexane | 0.1288 mol | CCCCCC | C6H14
reactant | chromium trichloride tris(tetrahydrofuran) | 0.1288 mol, 49 g | O1CCCC1.O1CCCC1.O1CCCC1.[Cl-].[Cl-].[Cl-].[Cr+3]
solvent | tetrahydrofuran | 550 ml | O1CCCC1 | C4H8O
product | (1-(2-pyridylmethyl)indenyl)chromium dichloride | [Cl-].[Cl-].N1=C(C=CC=C1)CC1C(=CC2=CC=CC=C12)[Cr+2] | InChI=1S/C15H12N.2ClH.Cr/c1-2-7-15-12(5-1)8-9-13(15)11-14-6-3-4-10-16-14;;;/h1-8,10,13H,11H2;2*1H;/q;;;+2/p-2
